US03953506
To a stirred solution of 0.01 mole of 1,2,3,4-tetrahydro-1-naphthylamine in ethyl acetate is added 0.01 mole of triethylamine and 0.011 mole of carbon disulfide. The mixture is stirred about one hour and then 0.01 mole of dicyclohexyl carbodiimide is added. The mixture is stirred overnight, and the mixture filtered to remove solid dicyclohexylthiourea. The filtrate is evaporated, and the residue is purified by dry column chromatography to give 1,2,3,4-tetrahydro-1-naphthyl isothiocyanate.

reactant | 1,2,3,4-tetrahydro-1-naphthylamine | 0.01 mole | C1(CCCC2=CC=CC=C12)N | C10H13N
reactant | triethylamine | 0.01 mole | C(C)N(CC)CC | C6H15N
reactant | carbon disulfide | 0.011 mole | C(=S)=S | CS2
reactant | dicyclohexyl carbodiimide | 0.01 mole | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,2,3,4-tetrahydro-1-naphthyl isothiocyanate | C1(CCCC2=CC=CC=C12)N=C=S | C11H11NS
